US04204998
11.7 G (0.05 mol) of p-acetaminobenzene sulphonyl chloride were added in portions and with stirring to a solution of 15.6 g (0.075 mol) of 1-amino-3-phenyl-indole in 100 ml of pyridine. The temperature of the mixture rose to about 45° C. The mixture was then heated to 60° C. and stirred for 3 hours at this temperature. The red solution obtained was then concentrated by evaporation under vacuum. The viscous, oily residue which was obtained was taken up in a mixture of benzene and chloroform (1:1 by volume) and chromatographically purified through a column of 300 ml Alox Woelm neutral Akt. II. The resulting oily product was crystallised from a little ethanol and was recrystallised from ethanol/water. The crystals of 1-(p-acetaminobenzene sulphonylamino)-3-phenyl-indole melted at 190°-193° C. and were obtained in a yield of 16.5 g (55% of the theoretical).

reactant | p-acetaminobenzene sulphonyl chloride | 0.05 mol | N(C(=O)C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | 1-amino-3-phenyl-indole | 0.075 mol, 15.6 g | NN1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H12N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(p-acetaminobenzene sulphonylamino)-3-phenyl-indole | N(C(=O)C)C1=CC=C(C=C1)S(=O)(=O)NN1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C22H19N3O3S
